US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-aminophenyl)-L-phenylalanine methyl ester TFA salt (90 mg) was dissolved in EtOH (5 mL). To this solution was added formalin (96 μL), 1 N HCl (234 μL) and NaCNBH3 (36 mg). The mixture was stirred for 0.5 h at room temperature, then a 1:1 mixture of EtOH (0.5 mL) and 1N HCl (0.5 mL) was added and the mixture was stirred overnight. Additional 1N HCl was added and the mixture was stirred for 0.5 h. The mixture was neutralized with NaHCO3 and extracted with EtOAc. The combined extracts were dried (MgSO4) and evaporated to give N-(2,6-dichlorobenzoyl)-4-[2-(N,N-dimethylamino)phenyl]-L-phenylalanine methyl ester.

reactant | N-(2,6-Dichlorobenzoyl)-4-(2-aminophenyl)-L-phenylalanine methyl ester TFA salt | 90 mg | OC(=O)C(F)(F)F.COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)N)=O
reactant | formalin | 96 μL | C=O | CH2O
reactant | HCl | 1 N, 234 μL | Cl | ClH
reactant | NaCNBH3 | 36 mg | [BH3-]C#N.[Na+]
reactant | HCl | 1N, 0.5 mL | Cl | ClH
reactant | HCl | 1N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | N-(2,6-dichlorobenzoyl)-4-[2-(N,N-dimethylamino)phenyl]-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)N(C)C)=O | C25H24Cl2N2O3
